US04734411
2-Chloro-3-(2-(pyrrolizidine-7a-carbonyl)aminobenzoyl]aminopyridine
To a solution of 2-chloro-3-(2-aminobenzoyl)aminopyridine (15.0 g, 61.0 mmol), in 200 ml of anhydrous pyridine, pyrrolizidine-7a-carbonyl chloride hydrochloride (14.0 g, 80.5 mmol), prepared as described in Reference Example 3) was added at -20° C. The mixture was stirred for 17 hours at 10° C. and evaporated in vacuo to dryness. The remaining residue was partitioned between saturated sodium biscarbonate solution and chloroform. The organic layer was dried over anhydrous sodium sulfate, filtered and evaporated in vacuo to dryness. To the remaining residue, methanol was added. After stirring, the resulting crystals was obtained through filtration and washed with small amount of methanol to give 18.1 g (77.2%) of the desired compound.

reactant | 2-chloro-3-(2-aminobenzoyl)aminopyridine | 61.0 mmol, 15.0 g | ClC1=NC=CC=C1NC(C1=C(C=CC=C1)N)=O | C12H10ClN3O
reactant | pyrrolizidine-7a-carbonyl chloride hydrochloride | 80.5 mmol, 14.0 g | Cl.C1CCN2CCCC12C(=O)Cl
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 2-Chloro-3-(2-(pyrrolizidine-7a-carbonyl)aminobenzoyl]aminopyridine | 18.1 g, 77.2% | ClC1=NC=CC=C1NC(C1=C(C=CC=C1)NC(=O)C12CCCN2CCC1)=O | C20H21ClN4O2
